US08871760B2
To a stirring room temperature solution of 2-amino-2-(4-fluoro-phenyl)-ethanol (15.4 g, 99.2 mmol) in THF (150 mL) was added di-tert-butyl dicarbonate (23 g, 105 mmol) followed by TEA (14 mL, 101 mmol). The reaction mixture was stirred for two hours at room temperature, then concentrated under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate, and the organic phase was separated, washed with saturated aqueous sodium bicarbonate, dried over MgSO4, filtered and concentrated under reduced pressure to give 25.0 g (98%) of [1-(4-fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester], MP=85-86° C.

reactant | 2-amino-2-(4-fluoro-phenyl)-ethanol | 99.2 mmol, 15.4 g | NC(CO)C1=CC=C(C=C1)F | C8H10FNO
reactant | di-tert-butyl dicarbonate | 105 mmol, 23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | [1-(4-fluoro-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 25.0 g, 98% | C(C)(C)(C)OC(NC(CO)C1=CC=C(C=C1)F)=O | C13H18FNO3
